US05710139
A solution of the obtained 3-(dimethylphosphonomethyl)-2-methylquinoline (0.28 g, 1.0 mmol) in carbon tetrachloride (20 ml) was treated with benzoylperoxide (50 mg) followed by N-bromosuccinimide (0.20 g, 1.1 mmol). The reaction mixture was refluxed for 4 hours, filtered and concentrated in vacuo. The residue was flash chromatographed on silica gel with ethyl acetate as the eluent to give 0.21 g of 2-bromomethyl-3-(dimethylphosphonomethyl)quinoline.

reactant | 3-(dimethylphosphonomethyl)-2-methylquinoline | 1.0 mmol, 0.28 g | COP(=O)(OC)CC=1C(=NC2=CC=CC=C2C1)C | C13H16NO3P
reactant | benzoylperoxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 1.1 mmol, 0.20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-3-(dimethylphosphonomethyl)quinoline | 0.21 g | BrCC1=NC2=CC=CC=C2C=C1CP(=O)(OC)OC | C13H15BrNO3P
